US07173040B2
A mixture of 5-(3-chlorophenyl)-α-(4-chlorophenyl)-α-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]-tetrazolo[1,5-a]quinazoline-7-methanol (0.0036 mol) in thionyl chloride (40 ml) was stirred at 60° C. for 5 hours then cooled. The solvent was evaporated. The residue was taken up in DCM. The solvent was evaporated, yielding 2.3 g (quantitative) of 7-[chloro(4-chlorophenyl)[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]methyl]-5-(3-chlorophenyl)-tetrazolo[1,5-a]quinazoline monohydrochloride. The product was used without further purification in the next reaction step

reactant | 5-(3-chlorophenyl)-α-(4-chlorophenyl)-α-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]-tetrazolo[1,5-a]quinazoline-7-methanol | 0.0036 mol | ClC=1C=C(C=CC1)C1=NC=2N(C3=CC=C(C=C13)C(O)(C1=NN=C(N1C)SC)C1=CC=C(C=C1)Cl)N=NN2 | C25H18Cl2N8OS
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 7-[chloro(4-chlorophenyl)[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]methyl]-5-(3-chlorophenyl)-tetrazolo[1,5-a]quinazoline monohydrochloride | 2.3 g | Cl.ClC(C=1C=C2C(=NC=3N(C2=CC1)N=NN3)C3=CC(=CC=C3)Cl)(C3=NN=C(N3C)SC)C3=CC=C(C=C3)Cl | InChI=1S/C25H17Cl3N8S.ClH/c1-35-22(30-32-24(35)37-2)25(28,15-6-9-17(26)10-7-15)16-8-11-20-19(13-16)21(14-4-3-5-18(27)12-14)29-23-31-33-34-36(20)23;/h3-13H,1-2H3;1H
